* PySpice Studio Netlist

.Model Dx diode (Is=14n Rs=0 N=1)

D1 1 2 010de
I1 3 4 Ir01ut0y ic=0
C1 5 6 uc1t0rCap ic=0
R1 7 8 uc1t0rCap
V1 9 10 DC 5

.tran 0.1m 80m 0
.control
run
set color0 = white
set color1 = black
set color2 = red
set xbrushwidth = 2
plot v(1) title 'Graph Window 1'
.endc
.end